* PEX produced on Thu Jul 23 04:48:44 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from sg13_lv_pmos_ring_dev_pex.ext - technology: ihp-sg13g2

.subckt sg13_lv_pmos_ring_dev_pex G B D S
X0 S G D B sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
C0 D B 0.04076f
C1 S B 0.04076f
C2 D S 0.03983f
C3 B G 0.15048f
C4 B sub 0.4281f
.ends

